US05834463
A solution of 2,3,9,10a-tetrahydrobenzo[b]cyclopenta[1,4]diazepin-10(1H)-one (4.0 g, 20 mmol) in N,N-dimethylformamide (20 mL) was cooled at 0° C. To the solution was added sodium hydride (60% liquid paraffin dispersion, 0.84 g, 21 mmol). The mixture was stirred for 5 minutes at the same temperature and, then for 10 minutes at room temperature. The reaction mixture was cooled to 0° C., to which was added dropwise a solution of cinnamyl bromide (4.7 g, 24 mmol) in N,N-dimethylformamide (5 mL). The mixture was stirred for 30 minutes at room temperature. The reaction mixture was poured into a saturated aqueous solution of ammonium chloride (40 mL), which was diluted with water, followed by extraction with ethyl acetate three times. Organic layers were combined, which was washed with water and a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, followed by filtration. The filtrate was concentrated under reduced pressure. The concentrate was subjected to a silica-gel column chromatography (hexane-ethyl acetate 5:1, then 2:1) to give a crude product of 9-(3-phenyl-2-propen-1-yl)-2,3,9,10a-tetrahydrobenzo[b]cyclopenta-[e][1,4]diazepin-10(1H)-one. The crude product was dissolved in methanol (10 mL), to which was added bromocresol green. To the mixture was added at 0° C. sodium cyanoborohydride (1.26 g, 20 mmol), to which was slowly added a 10% HCl-methanol solution until no more change was observed in the color of the solution. To the reaction mixture was added water, which was subjected to extraction with ethylacetate three times. Organic layers were combined, which was washed with water and a saturated aqueous solution of sodium chloride, followed by drying over magnesium sulfate and filtration. The filtrate was concentrated under reduced pressure to give the object compound (6.0 g, 94%) as an oily product.

reactant | 2,3,9,10a-tetrahydrobenzo[b]cyclopenta[1,4]diazepin-10(1H)-one | 20 mmol, 4.0 g | C1CCC=2C1C(NC1=C(N2)C=CC=C1)=O | C12H12N2O
reactant | sodium hydride | 21 mmol, 0.84 g | [H-].[Na+]
reactant | cinnamyl bromide | 24 mmol, 4.7 g | C(C=CC1=CC=CC=C1)Br | C9H9Br
reactant | ammonium chloride | 40 mL | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 9-(3-phenyl-2-propen-1-yl)-2,3,9,10a-tetrahydrobenzo[b]cyclopenta-[e][1,4]diazepin-10(1H)-one | C1(=CC=CC=C1)C=CCN1C2=C(N=C3C(C1=O)CCC3)C=CC=C2 | C21H20N2O
